US07399759B2
tert-Butyl (E)-3-(1-oxido-2-pyridyl)-2-propenoate
tert-Butyl (E)-3-(2-pyridyl)-2-propenoate (2.05 g, 10.0 mmol) was dissolved in ethyl acetate (10 ml), and 3-chloroperbenzoic acid (ca. 70%, 2.35 g, 10.5 mmol) was added thereto. The mixture was stirred at room temperature overnight. The reaction mixture was subjected to a silica gel (100 g) column chromatography. The fractions eluted with ethyl acetate-ethanol (5:1, v/v) were collected and concentrated to give the title compound (2.14 g, 96%).

reactant | tert-Butyl (E)-3-(2-pyridyl)-2-propenoate | 10.0 mmol, 2.05 g | N1=C(C=CC=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO2
reactant | 3-chloroperbenzoic acid | 10.5 mmol, 2.35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (E)-3-(1-oxido-2-pyridyl)-2-propenoate | 2.14 g, 96% | [O-][N+]1=C(C=CC=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO3
